US08871753B2
Step C: N-{3-[(Z)-2-(4-Aminopyridin-2-yl)vinyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride
To a mixture of tert-butyl [2-((Z)-2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}vinyl)pyridin-4-yl]carbamate (73.6 mg, 0.16 mmol) in 1,4-dioxane (0.50 mL) was added 4 M of hydrogen chloride in 1,4-dioxane (0.70 mL). The resultant reaction mixture was stirred at rt for 1 hour. The reaction mixture was concentrated under vacuum to give the desired product as a light yellow powder (66 mg, 95%). LCMS for C17H14Cl2N5 (M+H)+: m/z=358.0.

reactant | tert-butyl [2-((Z)-2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}vinyl)pyridin-4-yl]carbamate | 0.16 mmol, 73.6 mg | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)\C=C/C1=NC=CC(=C1)NC(OC(C)(C)C)=O)Cl | C22H21Cl2N5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 0.70 mL | O1CCOCC1 | C4H8O2
product | N-{3-[(Z)-2-(4-Aminopyridin-2-yl)vinyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 66 mg, 95% | Cl.Cl.NC1=CC(=NC=C1)\C=C/C=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl | InChI=1S/C17H13Cl2N5.2ClH/c18-15-10-22-17(19)24-16(15)23-14-3-1-2-11(8-14)4-5-13-9-12(20)6-7-21-13;;/h1-10H,(H2,20,21)(H,22,23,24);2*1H/b5-4-;;
